US04166128
The same procedures as in the Step 3 of Example 5 were repeated except that 6.8 g of ethyl 2-(2,6-dichloroanilino)-phenylglyoxylate were employed instead of 6.5 g of methyl 2-(2,6-dichloroanilino)phenylglyoxylate, thereby yielding 6.2 g of ethyl 2-(2,6-dichloroanilino)phenylglycolate. m.p. 155°-156° C. Yield: 91% of theoretical amount

reactant | ethyl 2-(2,6-dichloroanilino)-phenylglyoxylate | 6.8 g | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OCC)=O)C(=CC=C1)Cl | C16H13Cl2NO3
reactant | methyl 2-(2,6-dichloroanilino)phenylglyoxylate | 6.5 g | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OC)=O)C(=CC=C1)Cl | C15H11Cl2NO3
product | ethyl 2-(2,6-dichloroanilino)phenylglycolate | 6.2 g, Yield: 91% | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OCC)O)C(=CC=C1)Cl | C16H15Cl2NO3
